US07273877B2
2-(Aminooxy)ethanol, 4-(4-bromo-2-fluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid and DMT-MM were reacted in MeOH as outlined in example 33, step D. Further purification by flash chromatography on silica gel (EtOAc followed by 10% MeOH/CH2Cl2) gave 4-(4-bromo-2-fluoroanilino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide (38%); m.p. (EtOAc/Hexane) 124-128° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.64 (br s, 1H), 9.50 (br s, 1H), 8.13 (s, 1H), 7.69-7.65 (m, 1H), 7.47-7.41 (m, 2H), 5.53 (d, J=0.7 Hz, 1H), 4.78 (s, 1H), 3.91 (t, J=5.0 Hz, 2H), 3.61 (t, J=5.0 Hz, 2H), 3.36 (s, 3H). LCMS (ACPI−) 400 (80%), 398 (100%). Anal. Calcd for C15H15BrFN3O4.0.25 H2O: C, 44.5; H, 3.9; N, 10.4. Found C, 44.3; H, 3.5; N, 10.2.

reactant | 2-(Aminooxy)ethanol | NOCCO | C2H7NO2
reactant | 4-(4-bromo-2-fluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | BrC1=CC(=C(NC=2C(=CN(C(C2)=O)C)C(=O)O)C=C1)F | C13H10BrFN2O3
reactant | DMT-MM | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | MeOH | CO | CH4O
product | 4-(4-bromo-2-fluoroanilino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 38% | BrC1=CC(=C(NC=2C(=CN(C(C2)=O)C)C(=O)NOCCO)C=C1)F | C15H15BrFN3O4
